** sch_path: /foss/designs/IHP-AnalogAcademy/modules/module_1_bandgap_reference/part_3_layout/BGR_layout/final_bandgapreference/schematic_mod/full_bandgap.sch
.subckt complete_schematic_pads_fillers VBG vss vdd iout
*.PININFO VBG:O vss:B vdd:B iout:B
MM8 vss v- net1 sub! sg13_lv_nmos w=150n l=10u ng=1
MM6 net1 net1 vdd bulk6 sg13_lv_pmos w=1u l=1u ng=1
MM7 net2 net1 vdd bulk6 sg13_lv_pmos w=1u l=1u ng=1
MM9 v- net2 vdd bulk5 sg13_lv_pmos w=200n l=4u ng=1
MM1 v- v+ vss sub! sg13_lv_nmos w=7.14u l=5u ng=4
MM2 net3 net3 vss sub! sg13_lv_nmos w=21u l=5u ng=8
MM3 v- Vo1 vdd bulk7 sg13_lv_pmos w=15u l=5u ng=8
MM4 v+ Vo1 vdd bulk7 sg13_lv_pmos w=15u l=5u ng=8
MM5 VBG Vo1 vdd bulk7 sg13_lv_pmos w=16u l=5u ng=8
RR2 VBG net11 14.13k $SUB=sub! $[rppd] w=0.710e-6 l=38.65e-6 b=0
CC1 net2 vss cap_cmim w=18.2e-6 l=18.2e-6
MM10 dn3 v- dn2 bulk sg13_lv_pmos w=3.64u l=3.7u ng=1 m=2
MM11 dn4 v+ dn2 bulk sg13_lv_pmos w=3.64u l=3.7u ng=1 m=2
MM12 dn4 vdd vdd bulk sg13_lv_pmos w=3.64u l=3.7u ng=1 m=2
MM13 dn3 vdd vdd bulk sg13_lv_pmos w=3.64u l=3.7u ng=1 m=2
MM15 dn2 vdd vdd bulk sg13_lv_pmos w=3.64u l=3.7u ng=1 m=2
MM16 dn2 vdd vdd bulk sg13_lv_pmos w=3.64u l=3.7u ng=1 m=2
RR4 vdd bulk ntap1 A=33.0912p P=183.84u
MM14 dn2 iout vdd bulk1 sg13_lv_pmos w=5.3u l=1.95u ng=1
RR6 vdd bulk1 ntap1 A=20.4264p P=56.74u
MM17 vss dn3 dn3 sub! sg13_lv_nmos w=720n l=9.75u ng=1
MM18 vss dn3 dn4 sub! sg13_lv_nmos w=720n l=9.75u ng=1
MM19 Vo1 iout vdd bulk4 sg13_lv_pmos w=75u l=2.08u ng=8
MM20 vss dn4 Vo1 sub! sg13_lv_nmos w=28.8u l=9.75u ng=4
MM21 iout iout vdd bulk4 sg13_lv_pmos w=75u l=2.08u ng=8
CC2 dn4 Vo1 cap_cmim w=22.29e-6 l=22.29e-6
RR8 vdd bulk4 ntap1 A=65.2608p P=181.28u
RR9 vdd bulk6 ntap1 A=20.988p P=58.3u
RR12 v+ net7 20k $SUB=sub! $[rppd] w=0.5e-6 l=38.65e-6 b=0
RR3 net7 net6 20k $SUB=sub! $[rppd] w=0.5e-6 l=38.65e-6 b=0
RR13 net6 net5 20k $SUB=sub! $[rppd] w=0.5e-6 l=38.65e-6 b=0
RR14 net5 net4 20k $SUB=sub! $[rppd] w=0.5e-6 l=38.65e-6 b=0
RR15 net4 net3 20k $SUB=sub! $[rppd] w=0.5e-6 l=38.65e-6 b=0
RR16 net10 net9 20k $SUB=sub! $[rppd] w=0.5e-6 l=38.65e-6 b=0
RR17 net9 net8 20k $SUB=sub! $[rppd] w=0.5e-6 l=38.65e-6 b=0
RR18 net8 net17 20k $SUB=sub! $[rppd] w=0.5e-6 l=38.65e-6 b=0
RR19 net17 vss 3.366k $SUB=sub! $[rppd] w=3e-6 l=38.65e-6 b=0
RR20 net11 net12 14.13k $SUB=sub! $[rppd] w=0.710e-6 l=38.65e-6 b=0
RR21 net12 net13 14.13k $SUB=sub! $[rppd] w=0.710e-6 l=38.65e-6 b=0
RR22 net13 net14 14.13k $SUB=sub! $[rppd] w=0.710e-6 l=38.65e-6 b=0
RR23 net14 net15 14.13k $SUB=sub! $[rppd] w=0.710e-6 l=38.65e-6 b=0
RR24 net15 net16 14.13k $SUB=sub! $[rppd] w=0.710e-6 l=38.65e-6 b=0
RR25 net16 vss 14.13k $SUB=sub! $[rppd] w=0.710e-6 l=38.65e-6 b=0
RR26 vdd bulk5 ntap1 A=12.9024p P=35.84u
RR27 vdd bulk7 ntap1 A=80.0064p P=222.24u
RR7 vss sub! ptap1 A=187.248p P=633.7u
CC3 vdd vss cap_cmim w=5e-6 l=5e-6 m=15
RR31 v+ net10 20k $SUB=sub! $[rppd] w=0.5e-6 l=38.65e-6 b=0
.ends
